US07947851B2
Step d) Formation of Methyl {4-[({[(4-tert-butylphenyl)amino]carbonyl}{4-[(4-butylphenyl)ethynyl]benzyl)amino)methyl]phenoxy}acetate
A solution of methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}acetate (45 mg, 0.10 mmol) and 4-tert-butylphenylisocyanate (Aldrich, 27 mg, 0.15 mmol) in DCM (2 mL) was stirred at rt overnight in presence of a morpholine resin (1.5 eq., Novabiochem HL, 3.8 mmol/g). Trisamine resin (1.2 eq, Novabiochem, 3.5 mmol/g) was then added and the mixture was stirred at rt for an additional 2 hrs. The reaction mixture was then filtrated and the solvent was removed under reduced pressure to give quantitatively the title compound. HPLC, Rt: 5.97 min purity: 96.3%). M+(ESI): 619.6, M−(ESI): 616.9.

reactant | methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}acetate | 0.10 mmol, 45 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C29H31NO3
reactant | 4-tert-butylphenylisocyanate | 0.15 mmol, 27 mg | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
reactant | morpholine | 1.5 eq. | N1CCOCC1 | C4H9NO
reactant | Trisamine | 1.2 eq | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | Methyl {4-[({[(4-tert-butylphenyl)amino]carbonyl}{4-[(4-butylphenyl)ethynyl]benzyl)amino)methyl]phenoxy}acetate | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)N(CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCC)CC1=CC=C(OCC(=O)OC)C=C1 | C40H44N2O4
